US07432287B2
Preparation of 5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-3-(pyridin-4-yloxy)benzamide
The compound of Production Example 163 was obtained as a white amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 4-chloropyridine hydrochloride, (2R)-1-(t-butyldimethylsiloxy)-2-hydroxypropane and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 4-chloropyridine hydrochloride | Cl.ClC1=CC=NC=C1
reactant | (2R)-1-(t-butyldimethylsiloxy)-2-hydroxypropane | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-3-(pyridin-4-yloxy)benzamide | OCC(OC=1C=C(C=C(C(=O)NC2=NN(C=C2)C)C1)OC1=CC=NC=C1)C | C19H20N4O4
